US08703810B2
To a solution of (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (6.2 g, 26 mmol) and TEA (10.4 g, 104 mmol) in CH2Cl2 (100 mL), (R)-3-methylpiperidinium L-(+)-tartrate (6.5 g, 26 mmol) was added. The reaction mixture was heated at 40° C. for 48 h. The solution was washed (3×20 mL H2O), dried (Na2SO4), and concentrated. The residue was purified by silica gel column chromatography (MeOH/CH2Cl2=1/50) to give (R)-1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-3-methyl-piperidine (4.9 g) as yellow oil. 1H NMR (CDCl3): δ 3.83 (t, 2H), 3.02-2.94 (m, 2H), 2.61 (t, 2H), 2.11-2.03 (m, 1H), 1.82-1.64 (m, 5H), 0.90-0.80 (m, 13H), 0.05 (s, 6H); LCMS: 258.2 (M+H)+.

reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 26 mmol, 6.2 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | (R)-3-methylpiperidinium L-(+)-tartrate | 26 mmol, 6.5 g | C(=O)([O-])[C@H](O)[C@@H](O)C(=O)[O-].C[C@H]1C[NH2+]CCC1.C[C@H]1C[NH2+]CCC1
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-3-methyl-piperidine | 4.9 g | C(C)(C)(C)[Si](OCCN1C[C@@H](CCC1)C)(C)C | C14H31NOSi
